US08202858B2
4-(tert-Butoxycarbonylamino-methyl)-3-methyl-benzoic Acid Methyl Ester
Di-tert-butyl dicarbonate (900 mg, 4.1 mmol) was added to a solution of 4-aminomethyl-3-methyl-benzoic acid methyl ester from Example E2h.2 (670 mg, 3.7 mmol) in di-chloromethane (50 ml) and triethylamine (to pH9) at room temperature. The mixture was stirred for 1 h then concentrated in vacuo. The residue was redissolved in EtOAc, washed with 0.3N KHSO4 then brine, dried and concentrated in vacuo to yield the title compound (1.04 g, 100%).

reactant | Di-tert-butyl dicarbonate | 4.1 mmol, 900 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-aminomethyl-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CN)C)=O | C10H13NO2
reactant | triethylamine | pH9 | C(C)N(CC)CC | C6H15N
solvent | di-chloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(tert-Butoxycarbonylamino-methyl)-3-methyl-benzoic Acid Methyl Ester | 1.04 g, 100% | COC(C1=CC(=C(C=C1)CNC(=O)OC(C)(C)C)C)=O | C15H21NO4
